US06608078B2
1-benzylpiperidin-4-one (12 g, 63.5 mmole) was added to the stirred suspension of sodium hydride (3.0 g, 127.0 mmole) in tetrahydrofuran (100 ml) at −5° C. The reaction mixture was stirred for 15 min, trifluoromethyl iodide (25 g, 127.0 mmole) was bubbled over a period of 4 hr at −5° C. and stirring continued for 1 hr. The resulting mixture was stirred for 16 hr at ambient temperature, saturated sodium sulphate solution (20 ml) was added and diluted with ethyl acetate (200 ml). Ethyl acetate layer was separated, dried (Na2SO4) and concentrated to furnish crude product, which was purified through column chromatography. Elute from hexane afforded l-benzyl-3-trifluoromethylpiperidin-4-one as oil and 20% ethyl acetate in hexane gave the unreacted 1-benzylpiperidin-4-one (9.5 g). Yield 2.1 g (44%, based on reacted 1-benzyl piperidin-4-one), C13H14F3NO, m/z 258 (M+1), PMR (CDCl3): 2.54 (2H, m, H6), 3.02 (2H, m, H2), 3.6 (3H, m, H3 & H5), 4.36 (2H, s, N—CH2), 7.28 (5H, m, ArH).

reactant | 1-benzylpiperidin-4-one | 63.5 mmole, 12 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | sodium hydride | 127.0 mmole, 3.0 g | [H-].[Na+]
reactant | trifluoromethyl iodide | 127.0 mmole, 25 g | FC(F)(F)I | CF3I
reactant | sodium sulphate | 20 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | l-benzyl-3-trifluoromethylpiperidin-4-one | C(C1=CC=CC=C1)N1CC(C(CC1)=O)C(F)(F)F | C13H14F3NO
